US04382087
Preparation of 4-Hydroxy-6-Propyl-2-Trichloromethylpyrimidine
A mixture of 15.0 g (0.09 mole) trichloroacetamidine, 12.6 g (0.09 mole) potassium carbonate, 14.6 g (0.09 mole) ethyl butyrylacetate and 300 ml water was stirred overnight. The aqueous solution was decanted from the oil that formed and acidified with hydrochloric acid. The precipitate that formed was filtered, washed, and dried to give 2.6 g (11% yield). An analytical sample that was recrystallized from ligroin had mp 107°-110° C. The structure was confirmed via infrared and elemental analysis.

reactant | trichloroacetamidine | 0.09 mole, 15.0 g | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
reactant | potassium carbonate | 0.09 mole, 12.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl butyrylacetate | 0.09 mole, 14.6 g | C(CCC)(=O)CC(=O)OCC | C8H14O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 4-Hydroxy-6-Propyl-2-Trichloromethylpyrimidine | 11% yield | OC1=NC(=NC(=C1)CCC)C(Cl)(Cl)Cl | C8H9Cl3N2O
